US05134152
2-(2,4-Difluorophenyl)-4-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxetane
Following a procedure similar to that described in Example 4, but using 590 mg of 2-(2,4-difluorophenyl)-4-(methanesulfonyloxy)-4-methyl-(1H-1,2,4-triazol-1-yl)-2-butanol (which was synthesized from allylmagnesium chloride in a similar manner to the procedure described in Japanese Patent Provisional Publication No. Sho 59-517 and Preparations 2, 3 and 4), one of the stereoisomers at the C4 position was obtained as the major product in the form of an oil.

reactant | 2-(2,4-difluorophenyl)-4-(methanesulfonyloxy)-4-methyl-(1H-1,2,4-triazol-1-yl)-2-butanol | 590 mg | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(CC(C)OS(=O)(=O)C)O | C14H17F2N3O4S
reactant | allylmagnesium chloride | C(C=C)[Mg]Cl
product | 2-(2,4-Difluorophenyl)-4-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxetane | FC1=C(C=CC(=C1)F)C1(OC(C1)C)CN1N=CN=C1 | C13H13F2N3O
